US08729102B2
C) 2-(2-Bromo-4-(methoxymethoxy)phenyl)-N-methoxy-N-methylacetamide
A solution of 2-(2-bromo-4-hydroxyphenyl)-N-methoxy-N-methylacetamide (1.37 g) in THF (5 mL) was slowly added to a suspension of sodium hydride (0.22 g) in THF (30 mL) at 0° C. After stirring for 10 min, bromo(methoxy)methane (1.25 g) was added dropwise at 0° C. The mixture was stirred at 0° C. for 2 hr. The mixture was poured into water and extracted with ethyl acetate (30 mL×3). The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to dryness. The residue was purified by silica gel column chromatography (petroleum ether/ethyl acetate) to afford the title compound (1.34 g).

reactant | 2-(2-bromo-4-hydroxyphenyl)-N-methoxy-N-methylacetamide | 1.37 g | BrC1=C(C=CC(=C1)O)CC(=O)N(C)OC | C10H12BrNO3
reactant | sodium hydride | 0.22 g | [H-].[Na+]
reactant | bromo(methoxy)methane | 1.25 g | BrCOC | C2H5BrO
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(2-Bromo-4-(methoxymethoxy)phenyl)-N-methoxy-N-methylacetamide | 1.34 g | BrC1=C(C=CC(=C1)OCOC)CC(=O)N(C)OC | C12H16BrNO4
